US04937246
To a mixture of 3-thiophenecarboxylic acid (0.2 g), 1(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (0.56 g), triethylamine (0.6 g) and N,N-dimethylforamide (10 ml) is added dropwise at room temperature diethyl cyanophosphonate (0.6 ml), followed by stirring for one hour. After addition of water (100 ml) and ethyl acetate (100 ml), the reaction mixture is extracted with ethyl acetate. The extract is washed with water, dried, and concentrated under reduced pressure. The residue is purified by means of a silica gel column chromatography(hexane:acetone=2:1) to give an oily product, which is led to its hydrochloride, followed by crystallization from a mixture of ethyl acetate and ethyl ether to afford 1-(3-thenoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride (0.3 g) as colorless needles, m.p. 201°-205° C. (decomp.).

reactant | 3-thiophenecarboxylic acid | 0.2 g | S1C=C(C=C1)C(=O)O | C5H4O2S
reactant | 1(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 0.56 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
reactant | diethyl cyanophosphonate | 0.6 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | hydrochloride | Cl | ClH
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
solvent | N,N-dimethylforamide | 10 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.6 g | C(C)N(CC)CC | C6H15N
product | 1-(3-thenoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride | 0.3 g | Cl.C1=C(C=CS1)C(=O)N1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C19H24N2O4S.ClH/c1-23-16-10-14(11-17(24-2)18(16)25-3)12-20-5-7-21(8-6-20)19(22)15-4-9-26-13-15;/h4,9-11,13H,5-8,12H2,1-3H3;1H
